US08314108B2
tert-Butyl 3-(2-(3-(5-cyanopyrazin-2-ylamino)-1H-pyrazol-5-yl)-3-methoxyphenoxy)propylcarbamate
A solution of tert-butyl 3-(2-(3-(5-bromopyrazin-2-ylamino)-1H-pyrazol-5-yl)-3-methoxyphenoxy)propylcarbamate (0.378 g, 0.730 mmol) and zinc cyanide (0.10 g, 0.870 mmol) in DMF (10 mL) is degassed with a stream of nitrogen for one hour and then heated to 80° C. To the reaction is added Pd(Ph3P)4 (0.080 g, 0.070 mmol), and the mixture is heated overnight. The reaction is cooled to room temperature and concentrated under reduced pressure. The residue is purified by silica gel chromatography (CH2Cl2/MeOH) to give 0.251 g (73%) of the title compound.

reactant | tert-butyl 3-(2-(3-(5-bromopyrazin-2-ylamino)-1H-pyrazol-5-yl)-3-methoxyphenoxy)propylcarbamate | 0.730 mmol, 0.378 g | BrC=1N=CC(=NC1)NC1=NNC(=C1)C1=C(OCCCNC(OC(C)(C)C)=O)C=CC=C1OC | C22H27BrN6O4
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.870 mmol, 0.10 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(Ph3P)4 | 0.070 mmol, 0.080 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 3-(2-(3-(5-cyanopyrazin-2-ylamino)-1H-pyrazol-5-yl)-3-methoxyphenoxy)propylcarbamate | 0.251 g, 73% | C(#N)C=1N=CC(=NC1)NC1=NNC(=C1)C1=C(OCCCNC(OC(C)(C)C)=O)C=CC=C1OC | C23H27N7O4
